US07846929B2
To a mixture of 2-chloro-4-morpholin-4-yl-6-piperidin-4-ylidenemethyl-thieno[3,2-d]pyrimidine (500 mg) and formic acid (2.5 mL) at room temperature was added formaldehyde (0.5 mL of a 37 wt % solution in water). The reaction mixture was stirred at 60° C. for 16 h. The mixture was then diluted with dichloromethane (2 mL) and washed with 2 M aqueous sodium hydroxide solution (20 mL) and brine (20 mL), dried (MgSO4), reduced in vacuo and purified by column chromatography to give 2-chloro-6-(1-methyl-piperidin-4-ylidenemethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine as a yellow solid (0.15 g).

reactant | 2-chloro-4-morpholin-4-yl-6-piperidin-4-ylidenemethyl-thieno[3,2-d]pyrimidine | 500 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=C2CCNCC2)N2CCOCC2 | C16H19ClN4OS
reactant | formic acid | 2.5 mL | C(=O)O | CH2O2
reactant | formaldehyde | C=O | CH2O
solvent | water | O | H2O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-chloro-6-(1-methyl-piperidin-4-ylidenemethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 0.15 g | ClC=1N=C(C2=C(N1)C=C(S2)C=C2CCN(CC2)C)N2CCOCC2 | C17H21ClN4OS
